US05496928
To a suspension of H-DNle-OtBu.HCl (603 mg) in dichloromethane (10 ml) were added NMM (297 μl), Boc-DTrp-OH (903 mg), HOBT.H2O (413 mg) and EDCI.HCl (569 mg) successively under ice cooling. The mixture was stirred at the same temperature for 2 h and at room temperature for 1 h. The reaction mixture was diluted with ethyl acetate, washed with 10% aq. citric acid, sat. aq. NaHCO3, water and brine successively, dried over MgSO4 and evaporated in vacuo to give Boc-DTrp-DNle-OtBu (1.22 g). To a solution of the dipeptide derivative in dichloromethane (12 ml) were added methyl chloroformate (1 ml), pulverized NaOH (103 mg) and TBAHS (20 mg). After being stirred of the mixture at room temperature for 30 min, pulverized NaOH (103 mg) was added. This procedure was repeated twice more. The reaction mixture was diluted with dichloromethane, washed with sat. aq. NaHCO3, 10% aq.citric acid, water and brine successively, dried over MgSO4 and evaporated in vacuo. The residue was recrystallized from ethyl acetate and hexane to give Boc-DTrp(COOMe)-DNle-OtBu (1.15 g). The dipeptide derivative (1.03 g) was dissolved in TFA (10 ml) and the solution was stirred under ice cooling for 10 min. After evaporation of the reaction mixture, the residue was dissolved in ethyl acetate. The solution was washed with sat. aq NaHCO3, water and brine successively, dried over MgSO4 and concentrated under reduced pressure to give H-DTrp(COOMe)-DNle-OtBu as a free base. To a solution of the free base (750 mg) in methanol was added 3.78N - hydrogen chloride/1,4-dioxane (0.47 ml) under ice cooling. The solution was evaporated vacuo to to give H-DTrp(COOMe)-DNle-OtBu.HCl (810 mg). FAB-MS(m/e, (C23H33N3O5 +H)+):432

reactant | H-DNle-OtBu.HCl | 603 mg | N[C@H](CCCC)C(=O)OC(C)(C)C.Cl
reactant | NMM | 297 μl | CN1CCOCC1 | C5H11NO
reactant | Boc-DTrp-OH | 903 mg | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OC(C)(C)C | C16H20N2O4
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 569 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | H2O | 413 mg | O | H2O
product | Boc-DTrp-DNle-OtBu | 1.22 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@H](CCCC)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C26H39N3O5
